US04616086
By the reaction of 1-(4-chlorophenyl)-piperazine with 4'-(2-bromoethyl)-acetophenone analogously to Example (41a), there is obtained 4'-{2-[1-(4-chlorophenyl)-piperazin-4-yl]-ethyl}-acetophenone. Yield 64% of theory; m.p. 141°-143° C. (recrystallised from ethyl acetate).

reactant | 1-(4-chlorophenyl)-piperazine | ClC1=CC=C(C=C1)N1CCNCC1 | C10H13ClN2
reactant | 4'-(2-bromoethyl)-acetophenone | BrCCC1=CC=C(C=C1)C(C)=O | C10H11BrO
product | 4'-{2-[1-(4-chlorophenyl)-piperazin-4-yl]-ethyl}-acetophenone | Yield 64% | ClC1=CC=C(C=C1)N1CCN(CC1)CCC1=CC=C(C=C1)C(C)=O | C20H23ClN2O
